2138-09-23 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 On CPAP for much of day/night.
   - CTA done (was treated w/ mucomyst & bicarb), which, on prelim report,
   shows minimal subcutaneous emphysema along both anterior chest walls.
   No PE.  Aspiration, with fluid in the right lower lobe and right middle
   lobe bronchi,
   with atelectasis and patchy consolidation suspicious for pneumonia.
   There are also findings suspicious for interstitial edema.
   - Put in for Speech & Swallow c/s given question of aspiration on CTA,
   made NPO
 URINE CULTURE - At [**2138-9-22**] 06:26 PM
 BLOOD CULTURED - At [**2138-9-23**] 01:12 AM
 EKG - At [**2138-9-23**] 01:12 AM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2138-9-22**] 10:05 AM
   Vancomycin - [**2138-9-22**] 12:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-23**] 06:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-23**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 93 (77 - 102) bpm
   BP: 107/53(67) {83/38(50) - 134/76(86)} mmHg
   RR: 21 (10 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,050 mL
                                                                    469 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                  1,590 mL
                                                                    469 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    355 mL
   Urine:
                                                                  1,010 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    740 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (359 - 590) mL
   PS : 6 cmH2O
   PEEP: 6 cmH2O
   FiO2: 60%
   PIP: 12 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 9 L/min
   Physical Examination
   General: Awake, alert, mildly anxious, tachypneic.
   HEENT: NCAT, MM dry. Hoarse voice
   Neck: supple, inspiratory wheeze on ascultation of trachea (louder than
   in lungs), + JVD with HJR.  s/p tracheocutaneous fistula repair with
   bandage c/d/i, incision still partially open with sm amount white
   drainage. No surrounding erythema.  No crepitus.
   Pulmonary: No crackles, inspiratory wheeze.  Decreased at right base.
   Cardiac: Distant. RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: No edema, 2+ radial, DP pulses b/l
   Neurologic: Alert, oriented x 3. Able to relate history without
   difficulty. Cranial nerves II-XII intact. Normal bulk, strength and
   tone throughout. No abnormal movements noted. No deficits to light
   touch throughout.
   Labs / Radiology
   404 K/uL
   11.1 g/dL
   168 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   101 mEq/L
   141 mEq/L
   30.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
   WBC
   13.1
   10.3
   Hct
   32.3
   30.5
   Plt
   443
   404
   Cr
   1.3
   1.3
   TropT
   0.03
   <0.01
   Glucose
   70
   168
   Other labs: PT / PTT / INR:15.2/31.1/1.3, CK / CKMB /
   Troponin-T:92/6/<0.01, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, Ca++:9.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   67F with CAD, CHF, COPD and complicated pulmonary history w/p prolonged
   tracheostomy with recent decannulation and subsequent fistula closure
   with complicated MRSA PNA presenting with worsened respiratory
   distess.
   .
   <I>PLAN:</I>
   .
   <I>## Respiratory distress:</I>Ddx includes cardiac (CHF, MI), PE given
   recent hospitalization and immobility, VAP, COPD exacerbation, airway
   obstruction given recent surgery and airway instrumentation.  Per ENT
   note there is moderate supraglottic edema.
   -Per ENT recs, 10mg IV decadron Q8 x 3.
   -After decadron completed with switch to PO prednisone for steroid
   taper to tx for COPD component of respiratory compromise.
   -Standing and PRN nebs
   -Tx for VAP pna with Vanc/Zosyn and Cipro for add'l coverage of GNRs.
   -PICC placement for anticipated prolonged abx course
   -sputum cultures
   -follor CXRs
   -BNP 1900, not significantly off baseline. Pt dose look slightly volume
   overloaded, but unclear if this is playing a significant role in her
   respiratory distress. Also in ARF so want to minimize diuresis for
   now.  Will reserve lasix for now, may  need after getting fluid/dye for
   CT.
   -Pt is moderate to high risk per [**Doctor Last Name 1808**] criteria for PE given recent
   surgery and hospitalizion.  CTA with pretreatment mucomyst and bicarb
   to r/o PE.
   -F/u IP recs.
   -Continue to ROMI with serial CEs
   -Pt refusing ABGs, will hold of for now, may need if becomes
   somnolent.
   -BiPap to maintain 02 sats >88% or for pt comfort. Wean down 02 as
   tolerated.
   .
   <I>## ARF:</I>Ddx includes pre-renal in setting of possible infection
   vs ATN/AIN from meds given during last hospitalization.
   -d/c bactrim
   -hold on diuresis
   -hold lisinopril
   -renally dose abx
   -check urine lytes, eos
   .
   <I>## CAD:</I> No evidence for ischemia on ecg.
   -continue ASA, BB. Hold ACEI as above
   -continue to cycle CEs for full ROMI
   .
   <I>## CHF:</I>Clinically and by CXR and BNP pt appears moderately
   volume overloaded. TTE recently done ([**9-12**]) showed preserved EF with
   some focal wall motion abnormality.
   -Caution with fluids
   -may require diuresis after CTA
   -monitor I/Os
   -Continue BB
   -Holding ACEI as above for ARF
   .
   <I>## COPD:</I>Treat for exacerbation
   -steroids
   -nebs
   -02 prn
   -watch for somnolence as indicatory of increased retention as pt
   refusing ABG.
   .
   <I>## h/o bacteremia:</I>Last positive blood cx [**9-12**], was MRSA.
   received 8 days of IV vanc, sent home on PO bactrim.
   -Continue vancomycin to complete 14 day treatement for bacteremia
   -monitor for evidence of seeding especially in setting of leukocytosis
   and thrombocytosis which may be evidence for more chronic inflammation
   -PICC placement
   -monitor blood cultures
   .
   <I>## Depression/anxiety:</I>
   -ativan prn anxiety, caution not to oversedate
   -Continue home lamotrigine, quetiapine, sertraline
   .
   <I>## OSA:</I>
   -BiPAP or CPAP at night
   .
   <I>## Hyperlipidemia:</I>
   -Continue statin
   .
   <I>## Leukocytosis:<I>Concerning for infection although with normal
   diff.  Possible sources include likely lungs and possibly bactermia. Pt
   also at risk for c. diff given recent antibiotic use.
   -blood cultres
   -sputum cultures
   -stool and urine cultures
   ICU Care
   Nutrition:
   Comments: Cardiac heart healthy diet
   Glycemic Control: Regular insulin sliding scale
   Lines:
   18 Gauge - [**2138-9-22**] 10:15 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2138-09-23 10:28:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress. Extubated [**9-18**], d/c'ed
   home [**9-20**] on Bactrim DS presumptively for extended coverage of her MRSA
   pneumonia (despite having completed course of Vanc.) At ~1AM this
   morning she developed shortness of breath when she got up to go to the
   bathroom. No cough, fevers, chills. She went back to bed, slept for ~1
   hour on CPAP but awoke again with persistent shortness of breath and
   presented to the ER for further evaluation. Denies chest pain /
   pressure, orthopnea, PND. She feels that her volume overload is
   improving. She denies leg swelling or pain. Persistent cough productive
   of white sputum, no purulence noted. No wheezing or stridor.
   24 Hour Events: Was on Bipap overnight.  Received CTA here which was
   negative.  RML and RLL PNA.
 NON-INVASIVE VENTILATION - START [**2138-9-22**] 09:40 AM
 NON-INVASIVE VENTILATION - STOP [**2138-9-22**] 11:06 AM
 NON-INVASIVE VENTILATION - START [**2138-9-22**] 11:48 AM
 URINE CULTURE - At [**2138-9-22**] 06:26 PM
 BLOOD CULTURED - At [**2138-9-23**] 01:12 AM
 EKG - At [**2138-9-23**] 01:12 AM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2138-9-22**] 10:05 AM
   Vancomycin - [**2138-9-22**] 12:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-23**] 06:02 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Protonix
   Ducloax
   Senna
   Lamictal
   Simvistatin
   Asa
   Atrovent/albuterol nebs
   Cipro 500q24
   Zosun 2.25Q6
   Vancomycin 1g q24
   Seroquel
   Zoloft
   Dexamethasone d
cd. (total 3 doses) for airway.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-23**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.4
C (97.6
   HR: 96 (77 - 102) bpm
   BP: 104/54(65) {83/38(50) - 134/76(86)} mmHg
   RR: 19 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,050 mL
                                                                    505 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                  1,590 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    495 mL
   Urine:
                                                                  1,010 mL
                                                                    495 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    740 mL
                                                                     10 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 510 (359 - 590) mL
   PS : 6 cmH2O
   PEEP: 6 cmH2O
   FiO2: 60%
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 9 L/min
   Physical ExaminationGeneral: Chronically ill appearing. Breathing with
   mild accessory muscle use.
   HEENT: PERRL, anicteric, OP clear with dry MM.  CV: S1S2 soft HS
   irreg irreg, +SEM apex no r/g
s noted. No heave. JVP at ~8-10cm without
   HJR.  Lungs: CTA bilaterally with right basilar crackles, upper airway
   wheezing.
   Ab: Obese, positive BS
s, NT/ND. Ext: 1+ pitting edema, no c/c.
   Neuro: Awake, alert, answers questions appropriately. No gross motor
   deficits.
   Labs / Radiology
   11.1 g/dL
   404 K/uL
   168 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.8 mEq/L
   18 mg/dL
   101 mEq/L
   141 mEq/L
   30.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
   WBC
   13.1
   10.3
   Hct
   32.3
   30.5
   Plt
   443
   404
   Cr
   1.3
   1.3
   TropT
   0.03
   <0.01
   Glucose
   70
   168
   Other labs: PT / PTT / INR:15.2/31.1/1.3, CK / CKMB /
   Troponin-T:92/6/<0.01, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.3 mmol/L, Ca++:9.3 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress. Attempts were made in
   MICU to take her off NIPPV but her FiO2 requirement shot up to 100%-
   now back down on minimal PAP. So far her CXR and ENT eval do not appear
   acutely worsened from several days ago prior to hospital d/c . Her
   recent worsening appears most consistent with a multifactorial
   etiology:  upper airway procedure (fistula repair) with upper airway
   edema, bronchospasm/COPD, recent MRSA pneumonia. No problems with the
   surgical site.  Suspect mucus plug as the etiology
   1) ID: CTA demonstrated RLL and RML infiltrate when compared to CT back
   in [**Month (only) 2605**] was present then.  Will complete a 8 day course of antibiotics.
   2) Cardiac: She has a h/o diastolic CHF, however, her current
   presentation is not overly suggestive of a CHF exacerbation being her
   primary issue. Would aim for I/O to be euvolumic.
   3) Renal: Creatinine 1.3. Follow in the setting of  CTA.
   4) COPD / tracheobronchiomalacia: Would provide standing nebs,
   Albuterol / Atrovent q4hr and q2hr PRN.   Will hold steroids no evidenc
   of wheeze on exam, Guaifenesin and chest PT. NIPPV overnight and as
   needed during the day. Should she require intubation, would do it with
   fiberoptic guidance given her recent surgery.   Would also follow with
   repeat CT scan once clear to evaluate for resolution of findings
   otherwise would consider bronchoscopy to evaluate for obstruction.
   5) F/E/N: Cardiac prudent diet. Speech and swallow evaluation for
   chronic aspiration.  Follow / replete  lytes as needed. Goal euvolumic
   for now.
   6) Hosp: Access - pIV, code - full, proph - PPI and SCDs.
   7)[**Hospital 4976**] transfer to floor.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   18 Gauge - [**2138-9-22**] 10:15 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU level of care
   Total time spent: 45 min

2138-09-24 06:48:00 Physician Resident Progress Note
Chief Complaint: 67F with complicated pulmonary history.  Initiated in
   [**1-27**] when had THR, complicated post op course with prolonged
   intubation, with associated pseudomonas PNA, trach/PEG with resultant
   supraglottic stenosis and tracheomalacia.  Had laser treatment of
   granulation tissue in trachea in [**11-28**] and trach decannulation in
   [**3-29**].  Past year has been complicated by multiple admissions for both
   PNA and flash pulm edema.  Hospitalized late [**8-/2138**] for take down of
   tracheocutaneous fistula ([**9-12**]), had postop MRSA PNA/bacteremia treated
   with vanc. Discharged home on [**9-20**] on PO bactrim, represented in acute
   respiratory distress in [**9-22**] despite home BIPAP. Working ddx was mucous
   plug vs recurrent PNA.  Has received IV decadron x 3 for slight airway
   swelling seen on laryngoscope on admission.
   24 Hour Events:
 PICC LINE - START [**2138-9-23**] 09:34 AM
 NON-INVASIVE VENTILATION - STOP [**2138-9-23**] 09:48 AM
 SPUTUM CULTURE - At [**2138-9-23**] 09:58 AM
   Pt. expectorated tan colored sputum. Culture sent to the lab.
 FLUOROSCOPY - At [**2138-9-23**] 02:22 PM
   Pt. transported down for both a barium and video swallow study. -- no
   evidence overt aspiration
 RESPIRATORY ARREST - At [**2138-9-24**] 04:45 AM
   pt in acute distress, desat to 50's, diaphoretic and mottled; intubated
   Pt did well all day off BiPap, reported feeling back to baseline. Was
   on her BiPap at night (uses this at home) when became acutely short of
   breath at 4am. Given chest PT, lasix 40mg IV and morphine.  Pulse 0x
   [**Location (un) 308**] in high 40s.  Emergently intubated. Position confirmed
   fiberoptically. Continued to oxygenate poorly.  Tachycardic to
   130-140s, lots of ectopy, ecg didn't show overt ischemia, CEs
   negative.  Blood cultures drawn. CXR c/w pulmonary edema. VBG with pH
   6.98, lactate 6.6. PEEP increased to 12.  Given 80mg IV lasix and
   started on nitro gtt. Became hypotensive to 70s, nitro gtt held.
   Neosynephrine started.  Called husband and left message, called and
   spoke to son and informed him of events, he will relay to his father.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2138-9-22**] 10:05 AM
   Vancomycin - [**2138-9-22**] 12:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-24**] 06:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2138-9-24**] 04:45 AM
   Furosemide (Lasix) - [**2138-9-24**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-24**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 133 (46 - 133) bpm
   BP: 156/83(100) {96/36(50) - 156/84(100)} mmHg
   RR: 26 (12 - 26) insp/min
   SpO2: 83%
   Heart rhythm: ST (Sinus Tachycardia)
    Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                    567 mL
                                                                    769 mL
   PO:
   TF:
   IVF:
                                                                    567 mL
                                                                    769 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    230 mL
   Urine:
                                                                  1,125 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -559 mL
                                                                    539 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 580 (400 - 580) mL
   PS : 6 cmH2O
   PEEP: 6 cmH2O
   PIP: 12 cmH2O
   SpO2: 83%
   ABG: ///31/
   Ve: 9.3 L/min
   Physical Examination
   General: Awake, alert, appears comfortable
   HEENT: NCAT, MM dry. Hoarse voice
   Neck: supple + JVD with HJR.  s/p tracheocutaneous fistula repair with
   bandage c/d/i, incision still partially open with sm amount white
   drainage. No surrounding erythema.  No crepitus.
   Pulmonary: No crackles.  Decreased at right base.
   Cardiac: Distant. RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: No edema, 2+ radial, DP pulses b/l
   Neurologic: Alert, oriented x 3. Able to relate history without
   difficulty. Cranial nerves II-XII intact. Normal bulk, strength and
   tone throughout. No abnormal movements noted. No deficits to light
   touch throughout.
   Labs / Radiology
   380 K/uL
   9.5 g/dL
   120 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   27.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
   WBC
   13.1
   10.3
   8.0
   Hct
   32.3
   30.5
   27.7
   Plt
   [**Telephone/Fax (3) 5002**]
   Cr
   1.3
   1.3
   1.2
   TropT
   0.03
   <0.01
   Glucose
   70
   168
   120
   Other labs: PT / PTT / INR:15.2/31.1/1.3, CK / CKMB /
   Troponin-T:92/6/<0.01, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:6.6 mmol/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: CTA [**9-22**]:
   IMPRESSION:
   1. No PE.
   2. Findings compatible with aspiration within the right lower and
   middle lobe
   bronchi, with atelectasis and airspace consolidation suspicious for
   pneumonia.
   Prelim report [**9-23**] barium swallow:
   No evidence for gastroesophageal reflux. Small-to-moderate hiatal
   hernia.
   Videooropharyngeal swallow with no overt aspiration, may be slight
   silent aspiration, report pending.
   Microbiology: Blood, urine and sputum cultures pending.
   Assessment and Plan
   67F with CAD, CHF, COPD and complicated pulmonary history w/p prolonged
   tracheostomy with recent decannulation and subsequent fistula closure
   with complicated MRSA PNA presenting with worsened respiratory
   distress.
   .
   <I>PLAN:</I>
   .
   <I>## Respiratory distress:</I>No evidence MI or PE. Ddx includes PNA,
   CT imaging c/w lung collapse vs possible aspiration PNA. [**Month (only) 60**] have
   mucous plugged resulting in acute resp distress now resolved.
   -patient intubated, ENT aware of events overnight
   -tx for aspiration PNA with 8 day course Vanc/Cipro/Zosyn (day#3 today)
   -Aggressive chest PT
   -f/u final results of swallow eval
   -barium swallow to eval if chronic reflux/aspiration
   -BiPAP at night and PRN
   -s/p 3 doses decadron per ENT for airway swelling, no stridor
   -f/u ENT and IP recs
   -home nebs
   - cycle enzymes, last set due at noon today
   .
   <I>## ARF:</I>Ddx includes pre-renal in setting of possible infection
   vs ATN/AIN from meds given during last hospitalization.
   -d/c bactrim
   -hold on diuresis
   -hold lisinopril
   -renally dose abx
   -check urine lytes, eos
   .
   <I>## CAD:</I> No evidence for ischemia on ecg.  Ruled out with enzymes
   -continue ASA, BB. Hold ACEI as above
   .
   <I>## CHF:</I>Clinically and by CXR and BNP pt appears moderately
   volume overloaded. TTE recently done ([**9-12**]) showed preserved EF with
   some focal wall motion abnormality.
   -Caution with fluids
   -may require diuresis after CTA
   -monitor I/Os
   -Continue BB
   -Holding ACEI as above for ARF
   .
   <I>## COPD:</I>Treat for exacerbation
   -nebs
   -02 prn
   -watch for somnolence as indicatory of increased retention as pt
   refusing ABG.
   .
   <I>## h/o bacteremia:</I>Last positive blood cx [**9-12**], was MRSA.
   received 8 days of IV vanc, sent home on PO bactrim.
   -Continue vancomycin to complete 14 day treatement for bacteremia
   -monitor for evidence of seeding especially in setting of leukocytosis
   and thrombocytosis which may be evidence for more chronic inflammation
   -PICC placement, continue vancomycin as above, additional 8 days will
   complete total 14 days of IV antibiotics.
   -monitor blood cultures
   .
   <I>## Depression/anxiety:</I>
   -ativan prn anxiety, caution not to oversedate
   -Continue home lamotrigine, quetiapine, sertraline
   .
   <I>## OSA:</I>
   -BiPAP or CPAP at night
   .
   <I>## Hyperlipidemia:</I>
   -Continue statin
   .
   <I>## Leukocytosis:<I>Concerning for infection although with normal
   diff.  Possible sources include likely lungs and possibly bactermia. Pt
   also at risk for c. diff given recent antibiotic use.
   -blood cultres
   -sputum cultures
   -stool and urine cultures
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   18 Gauge - [**2138-9-22**] 10:15 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2138-09-24 08:20:00 Physician Resident Progress Note
Chief Complaint: 67F with complicated pulmonary history.  Initiated in
   [**1-27**] when had THR, complicated post op course with prolonged
   intubation, with associated pseudomonas PNA, trach/PEG with resultant
   supraglottic stenosis and tracheomalacia.  Had laser treatment of
   granulation tissue in trachea in [**11-28**] and trach decannulation in
   [**3-29**].  Past year has been complicated by multiple admissions for both
   PNA and flash pulm edema.  Hospitalized late [**8-/2138**] for take down of
   tracheocutaneous fistula ([**9-12**]), had postop MRSA PNA/bacteremia treated
   with vanc. Discharged home on [**9-20**] on PO bactrim, represented in acute
   respiratory distress in [**9-22**] despite home BIPAP. Working ddx was mucous
   plug vs recurrent PNA.  Has received IV decadron x 3 for slight airway
   swelling seen on laryngoscope on admission.
   24 Hour Events:
 PICC LINE - START [**2138-9-23**] 09:34 AM
 NON-INVASIVE VENTILATION - STOP [**2138-9-23**] 09:48 AM
 SPUTUM CULTURE - At [**2138-9-23**] 09:58 AM
   Pt. expectorated tan colored sputum. Culture sent to the lab.
 FLUOROSCOPY - At [**2138-9-23**] 02:22 PM
   Pt. transported down for both a barium and video swallow study. -- no
   evidence overt aspiration
 INVASIVE VENTILATION - START [**2138-9-24**] 05:10 AM
 EKG - At [**2138-9-24**] 05:20 AM
 BLOOD CULTURED - At [**2138-9-24**] 05:30 AM
 RESPIRATORY ARREST - At [**2138-9-24**] 04:45 AM
   pt in acute distress, desat to 50's, diaphoretic and mottled; intubated
   Pt did well all day off BiPap, reported feeling back to baseline. Was
   on her BiPap at night (uses this at home) when became acutely short of
   breath at 4am. Given chest PT, lasix 40mg IV and morphine.  Pulse 0x
   [**Location (un) 308**] in high 40s.  Emergently intubated. Position confirmed
   fiberoptically. Continued to oxygenate poorly.  Tachycardic to
   130-140s, lots of ectopy, ecg didn't show overt ischemia, CEs
   negative.  Blood cultures drawn. CXR c/w pulmonary edema. VBG with pH
   6.98, lactate 6.6. PEEP increased to 12.  Given 80mg IV lasix and
   started on nitro gtt. Became hypotensive to 70s, nitro gtt held.
   Neosynephrine started.  Called husband and left message, called and
   spoke to son and informed him of events, he will relay to his father.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2138-9-22**] 10:05 AM
   Vancomycin - [**2138-9-22**] 12:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-24**] 06:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2138-9-24**] 04:45 AM
   Furosemide (Lasix) - [**2138-9-24**] 05:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-24**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 75 (46 - 134) bpm
   BP: 99/42(58) {70/32(44) - 156/84(100)} mmHg
   RR: 22 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                    567 mL
                                                                    594 mL
   PO:
   TF:
   IVF:
                                                                    567 mL
                                                                    594 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                    940 mL
   Urine:
                                                                  1,125 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -559 mL
                                                                   -346 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 580 (400 - 580) mL
   PS : 6 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability, Agitated
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 11.9 L/min
   Physical Examination
   General: Intubated woman, alert and able to answer questions, in no
   acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach site healing, tiny
   fistula still present
   Pulmonary: No crackles.  Decreased with rhonchi at right base.
   Cardiac: Distant. RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: No edema, 2+ radial, DP pulses b/l
   Neurologic: Alert, able to follow simple commands and express wishes
   Labs / Radiology
   380 K/uL
   9.5 g/dL
   120 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   27.7 %
   8.0 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
   WBC
   13.1
   10.3
   8.0
   Hct
   32.3
   30.5
   27.7
   Plt
   [**Telephone/Fax (3) 5002**]
   Cr
   1.3
   1.3
   1.2
   TropT
   0.03
   <0.01
   0.03
   Glucose
   70
   168
   120
   Other labs: PT / PTT / INR:15.2/31.1/1.3, CK / CKMB /
   Troponin-T:67/6/0.03, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:6.6 mmol/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging
   Barium swallow [**2138-9-23**]: Prelim report - No evidence for gastroesophageal
   reflux. Small-to-moderate hiatal hernia.
   Video swallow [**2138-9-23**]: Preliminary result of no overt aspiration
   Assessment and Plan
   67F with CAD s/p CABG, CHF, COPD and complicated pulmonary history with
   prolonged tracheostomy with recent decannulation and subsequent fistula
   closure (on ENT service at [**Hospital1 54**] on [**9-12**]) with complicated MRSA PNA
   presented with worsened respiratory distress. Patient with acute event
   of respiratory failure overnight requiring intubation.
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress. Her recent worsening
   appears most consistent with a multifactorial etiology:  upper airway
   procedure (fistula repair) with upper airway edema, bronchospasm/COPD,
   recent MRSA pneumonia. No problems with the surgical site.  Suspect
   mucus plug as the etiology
   .
   <I>PLAN:</I>
   .
   <I>## Acute respiratory failure:</I>Patient admitted with respiratory
   distress in setting of possible aspiration PNA vs mucous plugging in
   setting of recent upper airway procedure with airway edema. Patient was
   being weaned off BIPAP yesterday and was doing well until acute episode
   of respiratory distress and failure early this AM leading to
   intubation. Etiology of acute respiratory distress may be [**2-22**] mucous
   plugging vs bronchospasm in setting of possible underlying tracheal
   stenosis/edema or granulation tissue in area of prior trach.
   - IP involved, contact them this am regarding possibility of trach
   today. Patient with 6.5 tube so cannot bronch through ETT
   - continue nebs and aggressive chest PT
   - continue tx for aspiration PNA with 8 day course Vanc/Cipro/Zosyn
   (day #3 today)
   -s/p 3 doses decadron per ENT for airway swelling, no stridor
   -f/u ENT and IP recs
   .
   <I>## Hypotension:</I>Requiring neosynephrine overnight with an
   elevated lactate to 6.6 in context of respiratory distress. No evidence
   of new infection or intraabdominal pathology.
   -wean down pressors as tolerated
   -recheck lactate
   -place a-line and recheck ABG today
   .
   <I>## CAD:</I> No evidence for ischemia on ecg.  Ruled out with enzymes
   on admission. Patient
s cardiac enzymes checked overnight in context of
   acute respiratory distress and hypotension. First set troponin <0.01,
   2^nd set 0.03
   - cycle enzymes, third set of cardiac enzymes due at noon
   -continue ASA, BB. Hold ACEI as above
   .
   <I>## CHF:</I>Patient with pulmonary edema by CXR overnight. TTE
   recently done ([**9-12**]) showed preserved EF with some focal wall motion
   abnormality. Patient received two doses of IV lasix overnight, looks
   euvolemic currently
   -Will allow patient to autodiuresis, goal net even overnight
   -monitor I/Os
   -Continue BB
   -Holding ACEI as above for ARF
   .
   <I>## ARF:</I>Ddx includes pre-renal in setting of possible infection
   vs ATN/AIN from meds given during last hospitalization and in setting
   of CTA on [**9-22**]. Cr decreased from 1.3 to 1.2 overnight.
   -hold on diuresis
   -hold lisinopril
   -renally dose abx
   -check urine lytes, eos
   .
   <I>## COPD:</I>Likely not etiology of acute respiratory distress
   overnight, patient without wheezing on exam
   -continue nebs
   .
   <I>## h/o bacteremia:</I>Last positive blood cx [**9-12**], was MRSA.
   received 8 days of IV vanc, sent home on PO bactrim.
   -Continue vancomycin to complete 14 day treatement for bacteremia
   -monitor for evidence of seeding especially in setting of leukocytosis
   and thrombocytosis which may be evidence for more chronic inflammation
   -PICC placement, continue vancomycin as above, additional 8 days will
   complete total 14 days of IV antibiotics.
   -monitor blood cultures
   .
   <I>## Depression/anxiety:</I>
   -ativan prn anxiety, caution not to oversedate
   -Continue home lamotrigine, quetiapine, sertraline
   .
   <I>## Hyperlipidemia:</I>
   -Continue statin
   .
   <I>## Leukocytosis:<I>White count decreased overnight. Concerning for
   infection although with normal diff.  Possible sources include likely
   lungs and possibly bactermia. Pt also at risk for c. diff given recent
   antibiotic use.
   -f/u blood, sputum, stool and urine cultures
   ICU Care
   Nutrition: OG tube placed, CXR confirmed placement. Start tube feeds
   today
 Nutren pulmonary. On cardiac diet as tolerated
   Glycemic Control:  Start on insulin sliding scale with initiation of
   tube feeds
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   18 Gauge - [**2138-9-22**] 10:15 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT: aspirin and pneumoboots
   Stress ulcer: restart IV protonix 40mg daily
   VAP:
   Comments: increase bowel regimen
 goal for bowel movement today
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2138-09-24 10:23:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 y/o F w/CAD, TBM, tracheocutaneous fistula c/b MRSA pna, recently
   discharged & readmitted [**9-22**] for respiratory failure.
   24 Hour Events:
 PICC LINE - START [**2138-9-23**] 09:34 AM
 NON-INVASIVE VENTILATION - STOP [**2138-9-23**] 09:48 AM
 SPUTUM CULTURE - At [**2138-9-23**] 09:58 AM
   Pt. expectorated tan colored sputum. Culture sent to the lab.
 FLUOROSCOPY - At [**2138-9-23**] 02:22 PM
   Pt. transported down for both a barium and video swallow study.
 RESPIRATORY ARREST - At [**2138-9-24**] 04:45 AM
   pt in acute distress, desat to 50's, diaphoretic and mottled; intubated
 INVASIVE VENTILATION - START [**2138-9-24**] 05:10 AM
 EKG - At [**2138-9-24**] 05:20 AM
 BLOOD CULTURED - At [**2138-9-24**] 05:30 AM
   Overnight, had worsening hypoxemia & respiratory distress.  Acute event
   where desaturated to high 40s, looked diaphoretic, and got intubated.
   EKG nonischemic, cardiac enzymes negative x1.  Became hypotensive and
   now requiring neo.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2138-9-22**] 10:05 AM
   Vancomycin - [**2138-9-22**] 12:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-24**] 06:00 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Phenylephrine - 1.2 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2138-9-24**] 04:45 AM
   Furosemide (Lasix) - [**2138-9-24**] 05:38 AM
   Other medications:
   colace, senna, lamictal, simvastatin, aspirin 81, albuterol/atrovent,
   ciprofloxacin, vancomycin q48h, seroquel, zoloft, peridex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Flowsheet Data as of  [**2138-9-24**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.9
   HR: 70 (46 - 134) bpm
   BP: 92/52(62) {70/32(44) - 156/84(100)} mmHg
   RR: 22 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Mixed Venous O2% Sat: 80 - 80
   Total In:
                                                                    567 mL
                                                                    642 mL
   PO:
   TF:
   IVF:
                                                                    567 mL
                                                                    642 mL
   Blood products:
   Total out:
                                                                  1,125 mL
                                                                  1,180 mL
   Urine:
                                                                  1,125 mL
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -559 mL
                                                                   -538 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 580 (400 - 580) mL
   PS : 6 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 80%
   RSBI Deferred: PEEP > 10, FiO2 > 60%, Hemodynamic Instability, Agitated
   PIP: 35 cmH2O
   Plateau: 26 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach site healing, tiny
   fistula still present
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: at R base)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   380 K/uL
   120 mg/dL
   1.2 mg/dL
   31 mEq/L
   4.0 mEq/L
   16 mg/dL
   105 mEq/L
   143 mEq/L
   27.7 %
   8.0 K/uL
         [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
   WBC
   13.1
   10.3
   8.0
   Hct
   32.3
   30.5
   27.7
   Plt
   [**Telephone/Fax (3) 5002**]
   Cr
   1.3
   1.3
   1.2
   TropT
   0.03
   <0.01
   0.03
   Glucose
   70
   168
   120
   Other labs: PT / PTT / INR:15.2/31.1/1.3, CK / CKMB /
   Troponin-T:67/6/0.03, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:6.6 mmol/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress. Her recent worsening
   appears most consistent with a multifactorial etiology:  upper airway
   procedure (fistula repair) with upper airway edema, bronchospasm/COPD,
   recent MRSA pneumonia. No problems with the surgical site.  Suspect
   mucus plug as the etiology
   1) ID: CTA demonstrated RLL and RML infiltrate when compared to CT back
   in [**Month (only) 2605**] was present then.  Will complete a 8 day course of
   antibiotics.  On vanc/cipro/zosyn for VAP.
   2) Cardiac: She has a h/o diastolic CHF, however, her current
   presentation is not overly suggestive of a CHF exacerbation being her
   primary issue. Would aim for I/O to be euvolumic.  Trend cardiac
   enzymes given event overnight.
   3) Renal: Creatinine 1.2. Follow in the setting of  CTA.
   4) COPD / tracheobronchiomalacia: Acute event overnight appears to be
   due to a mucus plug, likely complicated by underlying airway
   pathology.  [**Month (only) 60**] have tracheal stenosis or granulation tissue at level
   of prior trach complicating the situation.  Will discuss with IP
   possibility of bronch today (cannot bronch through ETT given 6.5
   tube).  Continue nebs.
   5) F/E/N: Cardiac prudent diet. Speech and swallow evaluation for
   chronic aspiration.  Follow / replete  lytes as needed. Goal euvolumic
   for now.
   6) Shock:  Requiring neosynephrine overnight with an elevated lactate.
   No evidence of intraabdominal pathology to explain the lactate.  Will
   recheck.
   .
   ICU Care
   Nutrition:
   Comments: start tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   18 Gauge - [**2138-9-22**] 10:15 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 min
   Patient is critically ill

2138-09-25 06:37:00 Physician Resident Progress Note
Chief Complaint:
   67F with CAD s/p CABG, CHF, COPD and complicated pulmonary history with
   prolonged tracheostomy with recent decannulation and subsequent fistula
   closure (on ENT service at [**Hospital1 54**] on [**9-12**]) with complicated MRSA PNA
   presented with worsened respiratory distress.
   24 Hour Events:
   -Yesterday patient
s troponin increased to 0.13, CK decreased at 60.
   EKG done showing no ischemic changes so thought to be [**2-22**] demand
   ischemia in setting of respiratory distress on AM of [**9-24**]. This AM
   cardiac enzymes trending downwards at trop 0.08, CK 39.
   -Overnight had decreased BP with MAP in low 50s, given 250ml NS bolus x
   2 with increase of pressure to MAP in 60s and increase in UOP (30 to
   70cc/hr)
   -Lactate decreased to normal
   -Vancomycin dose changed from Q48 to Q24 dosing as Cr improving
   -A-line placement attempted but unsuccessful
   -Had BM overnight on increased bowel reg
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin 1gm Q24hr
   Ciprofloxacin 500mg PO Q24
   Zosyn 2.25gm IV Q6h
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-24**] 10:51 AM
   Other medications:
   Lamotrigine 25mg PO BID
   Seroquel
   Sertraline 100mg PO daily
   Simvastatin 40mg PO daily
   Colace
   Albuterol/Ipratroprium
   Ativan prn
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-25**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.8
C (100
   HR: 63 (57 - 80) bpm
   BP: 91/52(61) {80/25(39) - 126/61(72)} mmHg
   RR: 18 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,004 mL
                                                                    540 mL
   PO:
             TF:
                                                                    162 mL
   IVF:
                                                                  1,721 mL
                                                                    480 mL
   Blood products:
   Total out:
                                                                  2,164 mL
                                                                    290 mL
   Urine:
                                                                  2,164 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                    250 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 100%
   ABG: ///30/
   Ve: 9.1 L/min
   Physical Examination
   General: Intubated woman, alert and able to answer questions, in no
   acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach site healing, tiny
   fistula still present
   Pulmonary: No crackles.  Decreased with rhonchi at right base.
   Cardiac: Distant. RR, nl S1 S2, no murmurs, rubs or gallops appreciated
   Abdomen: soft, NT, ND, normoactive bowel sounds, no masses or
   organomegaly noted
   Extremities: No edema, 2+ radial, DP pulses b/l
   Neurologic: Alert, able to follow simple commands and express wishes
   Labs / Radiology
   474 K/uL
   9.6 g/dL
   161 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.4 mEq/L
   15 mg/dL
   101 mEq/L
   139 mEq/L
   28.3 %
   10.4 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
                             [**2138-9-24**]  11:40 AM
                             [**2138-9-25**]  04:25 AM
   WBC
   13.1
   10.3
   8.0
   10.4
   Hct
   32.3
   30.5
   27.7
   28.3
   Plt
   [**Telephone/Fax (3) 5041**]74
   Cr
   1.3
   1.3
   1.2
   1.2
   TropT
   0.03
   <0.01
   0.03
   0.13
   0.08
   Glucose
   70
   168
   120
   161
   Other labs: PT / PTT / INR:14.3/30.1/1.2, CK / CKMB /
   Troponin-T:39/6/0.08, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   INR 1.2, PTT 30.1
   Micro:
   All BCx NGTD, Sputum Cx with oropharyngeal contamination, stool cdiff
   from this AM pending
   Imaging
   [**2138-9-23**]: Video swallow final results: Mild to moderate oropharyngeal
   dysphagia with episodes of penetration on nectar thick and thin liquids
   Assessment and Plan
   67F with CAD s/p CABG, CHF, COPD and complicated pulmonary history with
   prolonged tracheostomy with recent decannulation and subsequent fistula
   closure (on ENT service at [**Hospital1 54**] on [**9-12**]) with complicated MRSA PNA
   presented with worsened respiratory distress. Patient with acute event
   of respiratory failure overnight on [**9-24**] requiring intubation with plan
   for bronchoscopy to evaluate.
   .
   <I>PLAN:</I>
   .
   <I>## Acute respiratory failure:</I>Patient intubated after acute
   respiratory failure on AM of [**9-24**]. Likely [**2-22**] mucous plugging vs
   bronchospasm in setting of possible underlying tracheal stenosis/edema
   or granulation tissue in area of prior trach. Patient still intubated
   in the case there is need for bronch or visualization of airway by
   either IP or ENT.  Given patient
s history of multiple episodes of
   respiratory distress, worrisome that patient would have future episodes
   and would benefit for visualization and possible intervention.
   - follow up with final IP and ENT recommendations
   - if no bronch or airway visualization today, can likely extubate
   patient today
   - trial patient on pressure support with SBT
   - patient has received 10 days of broad spectrum abx for staph in
   sputum from prior BAL. CXR with no evidence of infiltrate, last BCx and
   sputum unremarkable. Discontinue antibiotics today and follow fever
   curve, white count
   - touch base with speech and swallow regarding recommendations for diet
   to decrease chance of aspiration
   - continue nebs and aggressive chest PT
   .
   <I>## Hypotension:</I>Lactate decreased, has been weaned down on neo
   but unable to completely wean off while intubated and on propofol.
   Patient
s BP is fluid responsive and has been stable over last 8 hours.
   A-line attempted but unable to place, no need for monitoring currently
   - wean down neo as tolerated
   .
   <I>## CAD:</I> Patient with some troponin elevation to peak of 0.13 in
   setting of acute respiratory distress from two nights prior. Most
   recent troponin trending down at 0.08 and EKG with no acute ischemic
   changes
   -continue ASA, BB. Hold ACEI as above
   .
   <I>## CHF:</I>Patient with pulmonary edema by CXR overnight. TTE
   recently done ([**9-12**]) showed preserved EF with some focal wall motion
   abnormality. Patient euvolemic and net even overnight without any
   additional diuretics
   -Will allow patient to autodiuresis, goal net even overnight
   -monitor I/Os
   -Continue BB
   -Holding ACEI as above for ARF
   .
   <I>## ARF:</I>Ddx includes pre-renal in setting of possible infection
   vs ATN/AIN from meds given during last hospitalization and in setting
   of CTA on [**9-22**]. Cr stable at 1.2
   -hold on diuresis
   -hold lisinopril
   -renally dose abx
   -check urine lytes, eos
   .
   <I>## COPD:</I>Likely not etiology of acute respiratory distress
   overnight, patient without wheezing on exam
   -continue nebs
   .
   <I>## Depression/anxiety:</I>
   -ativan prn anxiety, caution not to oversedate
   -Continue home lamotrigine, quetiapine, sertraline
   .
   <I>## Hyperlipidemia:</I>
   -Continue statin
   .
   <I>## Leukocytosis:<I>White count decreased overnight. Concerning for
   infection although with normal diff.  Possible sources include likely
   lungs and possibly bactermia. Pt also at risk for c. diff given recent
   antibiotic use.
   -f/u blood, sputum, stool and urine cultures
   ICU Care
   Nutrition: Continue on tube feeds
 Nutren pulmonary. On cardiac diet
   with aspiration precautions as tolerated
   Glycemic Control:  Continue on insulin sliding scale with initiation of
   tube feeds
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   18 Gauge - [**2138-9-22**] 10:15 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT: aspirin and pneumoboots
   Stress ulcer: restart IV protonix 40mg daily
   VAP:  Mouth care, HOB elevated
   Comments: Can decrease Lactulose to prn as patient with 2 large BMs
   overnight
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2138-09-25 10:39:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 y/o F w/TBM, trach s/p decannulation and fistula repair, admitted
   with respiratory failure.
   24 Hour Events:
   -troponin peaked at 0.13 and trended down overnight
   -lactate trended down
   -bolused with NS 250 x2
   -IP does not feel needs bronch as there is nothing they would offer her
   at this point.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 01:45 AM
   Vancomycin - [**2138-9-25**] 09:03 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-25**] 08:02 AM
   Other medications:
   senna, lamictal, simvastatin, aspirin 81 mg daily, ciprofloxacin,
   seroquel, zoloft, propofol at 15, lactulose, colace, atrovent and
   albuterol MDIs, ativan prn, vicodin prn, guaifenesin prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-25**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 69 (54 - 72) bpm
   BP: 94/48(60) {87/25(39) - 126/61(72)} mmHg
   RR: 17 (14 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,004 mL
                                                                    876 mL
   PO:
             TF:
                                                                    162 mL
   IVF:
                                                                  1,721 mL
                                                                    756 mL
   Blood products:
   Total out:
                                                                  2,164 mL
                                                                    429 mL
   Urine:
                                                                  2,164 mL
                                                                    429 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -160 mL
                                                                    447 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 428 (428 - 428) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   SpO2: 99%
   ABG: ///30/
   Ve: 7.3 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious, tearful
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   474 K/uL
   161 mg/dL
   1.2 mg/dL
   30 mEq/L
   3.4 mEq/L
   15 mg/dL
   101 mEq/L
   139 mEq/L
   28.3 %
   10.4 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
                             [**2138-9-24**]  11:40 AM
                             [**2138-9-25**]  04:25 AM
   WBC
   13.1
   10.3
   8.0
   10.4
   Hct
   32.3
   30.5
   27.7
   28.3
   Plt
   [**Telephone/Fax (3) 5041**]74
   Cr
   1.3
   1.3
   1.2
   1.2
   TropT
   0.03
   <0.01
   0.03
   0.13
   0.08
   Glucose
   70
   168
   120
   161
   Other labs: PT / PTT / INR:14.3/30.1/1.2, CK / CKMB /
   Troponin-T:39/6/0.08, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Imaging: Video swallow:  Moderate penetration of nectar thick and thin
   liquids.
   CXR: Increased interstitial markings c/w yesterday but no obvious
   infiltrate.
   Microbiology: Blood cx NGTD
   Sputum OP flora
   CDiff pending
   Assessment and Plan
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress. Her recent worsening
   appears most consistent with a multifactorial etiology:  upper airway
   procedure (fistula repair) with upper airway edema, bronchospasm/COPD,
   recent MRSA pneumonia. No problems with the surgical site.  Suspect
   mucus plug as the etiology +/- aspiration.
   1) Respiratory failure:  Acute event the other night appears to be due
   to a mucus plug, likely complicated by underlying airway pathology.
   [**Month (only) 60**] have tracheal stenosis or granulation tissue at level of prior
   trach complicating the situation.  Will discuss need for bronch or
   visualization of airway with both IP and ENT.  If neither want to scope
   her, can likely extubate today given how well she looks on current
   settings.
   - PSV 5/5, SBT
   - Has received 10 days of abx, sputum was non-purulent [**9-23**].  Will d/c
   abx and follow fever curve, WBC count.
   2) Shock:  Neo requirement decreased, appears related to propofol.
   Lactate normalized.
   -wean neo
   3) Elevated troponin:  Likely demand in setting of hypotension, now
   resolving.  No ECG changes.  Goal euvolemic.
   4) Renal: Creatinine 1.2. Follow in the setting of  CTA.
   5) F/E/N: Cardiac prudent diet. Follow / replete  lytes as needed. Goal
   euvolemic for now.
   ICU Care
   Nutrition:
   Comments: holding tube feeds pending extubation
   Glycemic Control:  Blood sugar well controlled
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30
   Patient is critically ill

2138-09-26 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Antibiotics discontinued.
   Home Lasix regimen restarted.
   Rigid BRONCHOSCOPY (- At [**2138-9-25**] 07:00 PM) performed in OR with
   anesthesia present; with essentially normal findings and nothing to
   explain her recurrent respiratory failure.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsHeparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 01:45 AM
   Vancomycin - [**2138-9-25**] 09:03 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-25**] 08:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-26**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 58 (54 - 77) bpm
   BP: 123/57(74) {91/44(55) - 130/63(79)} mmHg
   RR: 14 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,242 mL
                                                                    366 mL
   PO:
             TF:
   IVF:
                                                                    942 mL
                                                                    186 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    325 mL
   Urine:
                                                                  1,660 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -418 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 458 (407 - 541) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: ///29/
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   423 K/uL
   9.1 g/dL
   205 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   14 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
                             [**2138-9-24**]  11:40 AM
                             [**2138-9-25**]  04:25 AM
                             [**2138-9-26**]  03:11 AM
   WBC
   13.1
   10.3
   8.0
   10.4
   8.2
   Hct
   32.3
   30.5
   27.7
   28.3
   26.9
   Plt
   [**Telephone/Fax (3) 5041**]74
   423
   Cr
   1.3
   1.3
   1.2
   1.2
   1.0
   TropT
   0.03
   <0.01
   0.03
   0.13
   0.08
   Glucose
   70
   168
   120
   161
   205
   Other labs: PT / PTT / INR:14.3/30.1/1.2, CK / CKMB /
   Troponin-T:39/6/0.08, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Micro: No new micro.
   CXR.
   Assessment and Plan
   67F with CAD s/p CABG, CHF, COPD and complicated pulmonary history with
   prolonged tracheostomy with recent decannulation and subsequent fistula
   closure (on ENT service at [**Hospital1 54**] on [**9-12**]) with complicated MRSA PNA
   presented with worsened respiratory distress. Patient with acute event
   of respiratory failure overnight on [**9-24**] requiring intubation with plan
   for bronchoscopy to evaluate.
   .
   <I>PLAN:</I>
   .
   <I>## Acute respiratory failure:</I>Patient intubated after acute
   respiratory failure on AM of [**9-24**]. Likely [**2-22**] mucous plugging vs
   bronchospasm in setting of possible underlying tracheal stenosis/edema
   or granulation tissue in area of prior trach. Patient still intubated
   in the case there is need for bronch or visualization of airway by
   either IP or ENT.  Given patient
s history of multiple episodes of
   respiratory distress, worrisome that patient would have future episodes
   and would benefit for visualization and possible intervention.
   - follow up with final IP and ENT recommendations
   - if no bronch or airway visualization today, can likely extubate
   patient today
   - trial patient on pressure support with SBT
   - patient has received 10 days of broad spectrum abx for staph in
   sputum from prior BAL. CXR with no evidence of infiltrate, last BCx and
   sputum unremarkable. Discontinue antibiotics today and follow fever
   curve, white count
   - touch base with speech and swallow regarding recommendations for diet
   to decrease chance of aspiration
   - continue nebs and aggressive chest PT
   .
   <I>## Hypotension:</I>Lactate decreased, has been weaned down on neo
   but unable to completely wean off while intubated and on propofol.
   Patient
s BP is fluid responsive and has been stable over last 8 hours.
   A-line attempted but unable to place, no need for monitoring currently
   - wean down neo as tolerated
   .
   <I>## CAD:</I> Patient with some troponin elevation to peak of 0.13 in
   setting of acute respiratory distress from two nights prior. Most
   recent troponin trending down at 0.08 and EKG with no acute ischemic
   changes
   -continue ASA, BB. Hold ACEI as above
   .
   <I>## CHF:</I>Patient with pulmonary edema by CXR overnight. TTE
   recently done ([**9-12**]) showed preserved EF with some focal wall motion
   abnormality. Patient euvolemic and net even overnight without any
   additional diuretics
   -Will allow patient to autodiuresis, goal net even overnight
   -monitor I/Os
   -Continue BB
   -Holding ACEI as above for ARF
   .
   <I>## ARF:</I>Ddx includes pre-renal in setting of possible infection
   vs ATN/AIN from meds given during last hospitalization and in setting
   of CTA on [**9-22**]. Cr stable at 1.2
   -hold on diuresis
   -hold lisinopril
   -renally dose abx
   -check urine lytes, eos
   .
   <I>## COPD:</I>Likely not etiology of acute respiratory distress
   overnight, patient without wheezing on exam
   -continue nebs
   .
   <I>## Depression/anxiety:</I>
   -ativan prn anxiety, caution not to oversedate
   -Continue home lamotrigine, quetiapine, sertraline
   .
   <I>## Hyperlipidemia:</I>
   -Continue statin
   .
   <I>## Leukocytosis:<I>White count decreased overnight. Concerning for
   infection although with normal diff.  Possible sources include likely
   lungs and possibly bactermia. Pt also at risk for c. diff given recent
   antibiotic use.
   -f/u blood, sputum, stool and urine cultures
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2138-09-26 11:08:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress. Her recent worsening
   appears most consistent with a multifactorial etiology:  upper airway
   procedure (fistula repair) with upper airway edema, bronchospasm/COPD,
   recent MRSA pneumonia.
   24 Hour Events:
 BRONCHOSCOPY - At [**2138-9-25**] 07:00 PM
   Rigid bronchoscopy reportedly normal.  Extubated in OR but became
   hypoxic, felt related to sedation so reintubated.
   Given lasix for pulmonary edema on CXR.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 01:45 AM
   Vancomycin - [**2138-9-25**] 09:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   senna, lamictal, simvastatin, aspirin 81 mg daily, seroquel, zoloft,
   peridex, colace, protonix, insulin SQ, atrovent, albuterol, lasix 40 mg
   daily, propofol is off
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-26**] 11:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.3
   HR: 86 (54 - 86) bpm
   BP: 127/73(86) {92/44(55) - 130/73(86)} mmHg
   RR: 21 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,242 mL
                                                                    493 mL
   PO:
             TF:
   IVF:
                                                                    942 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  1,660 mL
                                                                    905 mL
   Urine:
                                                                  1,660 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -418 mL
                                                                   -412 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 73 (73 - 541) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 43
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: ///29/
   Ve: 11.1 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach site healing well
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   423 K/uL
   205 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.5 mEq/L
   14 mg/dL
   100 mEq/L
   137 mEq/L
   26.9 %
   8.2 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
                             [**2138-9-24**]  11:40 AM
                             [**2138-9-25**]  04:25 AM
                             [**2138-9-26**]  03:11 AM
   WBC
   13.1
   10.3
   8.0
   10.4
   8.2
   Hct
   32.3
   30.5
   27.7
   28.3
   26.9
   Plt
   [**Telephone/Fax (3) 5041**]74
   423
   Cr
   1.3
   1.3
   1.2
   1.2
   1.0
   TropT
   0.03
   <0.01
   0.03
   0.13
   0.08
   Glucose
   70
   168
   120
   161
   205
   Other labs: PT / PTT / INR:14.3/30.1/1.2, CK / CKMB /
   Troponin-T:39/6/0.08, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:8.8 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: bilateral LL infiltrates, minimal.
   Assessment and Plan
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress. Her recent worsening
   appears most consistent with a multifactorial etiology:  upper airway
   procedure (fistula repair) with upper airway edema, bronchospasm/COPD,
   recent MRSA pneumonia. No problems with the surgical site.  Suspect
   mucus plug as the etiology +/- aspiration.
   1) Respiratory failure:  Acute event the other night appears to be due
   to a mucus plug vs aspiration.  No airway pathology seen on rigid
   bronch which would limit extubation.
   - good RSBI this AM, comfortable on [**5-26**], so will proceed with
   extubation.
   - no evidence of pneumonia, off antibiotics
   2) Hypotension:  Resolved.  off neo.  Likely related to propofol.
   3) Elevated troponin/Hx CHF:  Likely demand in setting of hypotension,
   now resolving.  No ECG changes.  Goal euvolemic.  Restart
   antihypertensives in AM if stable today.
   4) ARF:  Resolved.  Creatinine improved.
   5) F/E/N: NPO, restart clear liquids tonight if she does well. Follow /
   replete  lytes as needed. Goal euvolemic for now.
   ICU Care
   Nutrition:
   Comments: holding TF for extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 min

2138-09-27 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient Extubated.  Initially on face tent, but patient requested CPAP
   overnight.  This morning back on face tent breathing comfortably with
   good O2 sat
   Asymptomatic hypotension of 80s/40 that resolved without intervention.
 INVASIVE VENTILATION - STOP [**2138-9-26**] 11:18 AM
 PICC LINE - STOP [**2138-9-27**] 12:48 AM
 PICC LINE - START [**2138-9-27**] 12:52 AM
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 01:45 AM
   Vancomycin - [**2138-9-25**] 09:03 AM
   Now off all antibiotics
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2138-9-25**] 08:02 AM
   Other medications:
   Morphine 1 mg IV prn hip pain
   Ativan PO/ IV prn anxiety
   Lasix 40 mg daily
   Lactulose 30 mg daily
   Albuterol q4 hr
   Atrovent
   Colace 100 [**Hospital1 **]
   Pantoprazole 40 IV daily
   Chlorhexidine mouthwash
   Senna
   Lamotrigine 25 mg [**Hospital1 **]
   Simvastatin 40 mg daily
   Aspirin 81 daily
   Seroquel
   Sertraline 100 daily
   Albuterol/ipratroprium nebs
   Insuline sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-27**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.3
C (97.4
   HR: 79 (66 - 91) bpm
   BP: 121/55(72) {82/40(51) - 143/73(98)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    523 mL
                                                                     60 mL
   PO:
                  TF:
   IVF:
                                                                    223 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    135 mL
   Urine:
                                                                  1,620 mL
                                                                    135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,097 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: Standby
   Vt (Spontaneous): 73 (73 - 432) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 100%
   PIP: 17 cmH2O
   SpO2: 93%
   ABG: ///28/
   Ve: 8.9 L/min
   Physical Examination
   Gen: Comfortable, pleasant, in NAD
   HEENT: PERRL, EOMI, MMM, area of prior trach c/d/i
   Lungs: Trace rhonchi, no wheezes
   CV: RRR, no m/r/g
   Ext: WWP
   Labs / Radiology
   369 K/uL
   10.5 g/dL
   87 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   15 mg/dL
   104 mEq/L
   142 mEq/L
   30.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
                             [**2138-9-24**]  11:40 AM
                             [**2138-9-25**]  04:25 AM
                             [**2138-9-26**]  03:11 AM
                             [**2138-9-27**]  03:35 AM
   WBC
   13.1
   10.3
   8.0
   10.4
   8.2
   7.7
   Hct
   32.3
   30.5
   27.7
   28.3
   26.9
   30.3
   Plt
   [**Telephone/Fax (3) 5041**]74
   423
   369
   Cr
   1.3
   1.3
   1.2
   1.2
   1.0
   1.0
   TropT
   0.03
   <0.01
   0.03
   0.13
   0.08
   Glucose
   70
   168
   120
   161
   205
   87
   Other labs: PT / PTT / INR:14.3/30.1/1.2, CK / CKMB /
   Troponin-T:39/6/0.08, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 67F with CAD s/p CABG, CHF, COPD and complicated
   pulmonary history with prolonged tracheostomy with recent decannulation
   and subsequent fistula closure (on ENT service at [**Hospital1 54**] on [**9-12**]) with
   complicated MRSA PNA presented with worsened respiratory distress.  Now
   s/p bronchoscopy which did not reveal significant upper airway
   stenosis.
   .
   1.  Respiratory failure.  Patient was intubated on [**9-24**] after episode of
   flash pulmonary edema while being bathed and concern for upper airway
   obstruction due to previous intubations/trach.  Patient also has
   history of trace aspiration.  Completed 10 day course for aspiration
   pneumonia on [**9-25**]. Rigid bronchoscopy on [**9-25**] showed no significant upper
   airway stenosis.  Extubated successfully on [**2138-9-26**]. No episodes of
   respiratory distress overnight, but given history, will watch closely
   today as patient is advanced on her diet with aspiration precautions.
   - IP and ENT following, appreciate recs
   - watch patient closely overnight as we advance her diet today
   - strict aspiration precautions with PO intake
 regular food with thin
   liquids with aspiration precautions, but pills must be taken with
   thickened liquids
   - continue nebs
   - continue home lasix for interstial edema
   - ativan prn for anxiety
   .
   2.Hypotension.  Patient off pressors, still with some low BP overnight,
   but asymptomatic
   - monitor BP and fluid boluses prn
   3.   CAD.  Patient had troponin leak in setting of flash pulmonary
   edema/HTN.  Troponins have trended down.
   -continue ASA, BB
   - consider resuming ACEI when BP tolerates and if renal function
   continues to improve
   .
   4.  CHF.  Patient had episode of pulmonary edema requiring intubation
   on [**9-23**].  CXR yesterday showed mild interstitial edema.  Currently
   euvolemic, but will continue home lasix dose.   TTE recently done
   ([**9-12**]) showed preserved EF with some focal wall motion abnormality.
   Patient euvolemic and net even overnight without any additional
   diuretics
   -continue home lasix
   -monitor I/Os
   -Continue BB
   - holding ACEI until blood pressure stable
   .
   5.  ARF.  Pre-renal ARF is resolved now.  Cr now 1.0.
   - consider resuming lisinopril when BP tolerates, Cr improved
   6.   COPD.
    -continue nebs
   .
   7. Depression/anxiety.  Patient has significant anxiety.
   -ativan prn anxiety, caution not to oversedate. Can change Ativan from
   IV to PO
   -Continue home lamotrigine, quetiapine, sertraline
   .
   8.  Hyperlipidemia:
   -Continue statin
   ICU Care
   Nutrition: Advance diet to regular diet with aspiration precautions,
   pills with thickened liquids
   Glycemic Control:
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: pantoprazole
   VAP: Extubated
   Comments:
   Communication: Comments:
   Code status: Full code
   Disposition: ICU care for now

2138-09-27 10:50:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2138-9-26**] 11:18 AM
 PICC LINE - STOP [**2138-9-27**] 12:48 AM
 PICC LINE - START [**2138-9-27**] 12:52 AM
   Extubated yesterday.  Was on cpap per her request which she uses at
   home.
   BP as low as 80s/40s, resolved without intervention.
   History obtained from Patient
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-9-25**] 01:45 AM
   Vancomycin - [**2138-9-25**] 09:03 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2138-9-26**] 07:50 PM
   Morphine Sulfate - [**2138-9-26**] 08:08 PM
   Other medications:
   zoloft, seroquel, aspirin, simvastatin, lamictal, senna, insulin
   sliding scale, protonix, colace, lasix 40 mg daily, atrovent,
   albuterol, ativan 0.5 mg IV q6h, morphine 1 mg IV prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-27**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.1
C (96.9
   HR: 93 (75 - 93) bpm
   BP: 122/48(66) {82/40(51) - 143/70(98)} mmHg
   RR: 18 (15 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
                  Total In:
                                                                    523 mL
                                                                    160 mL
   PO:
                  TF:
   IVF:
                                                                    223 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    235 mL
   Urine:
                                                                  1,620 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,097 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   FiO2: 70%
   SpO2: 96%
   ABG: ///28/
   Ve: 8.9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.5 g/dL
   369 K/uL
   87 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   15 mg/dL
   104 mEq/L
   142 mEq/L
   30.3 %
   7.7 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
                             [**2138-9-24**]  11:40 AM
                             [**2138-9-25**]  04:25 AM
                             [**2138-9-26**]  03:11 AM
                             [**2138-9-27**]  03:35 AM
   WBC
   13.1
   10.3
   8.0
   10.4
   8.2
   7.7
   Hct
   32.3
   30.5
   27.7
   28.3
   26.9
   30.3
   Plt
   [**Telephone/Fax (3) 5041**]74
   423
   369
   Cr
   1.3
   1.3
   1.2
   1.2
   1.0
   1.0
   TropT
   0.03
   <0.01
   0.03
   0.13
   0.08
   Glucose
   70
   168
   120
   161
   205
   87
   Other labs: PT / PTT / INR:14.3/30.1/1.2, CK / CKMB /
   Troponin-T:39/6/0.08, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Imaging: CXR: clear
   Microbiology: C diff negative.
   Assessment and Plan
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress.  Suspect mucus plug as
   the etiology +/- aspiration.  Now much improved, s/p extubation
   yesterday.
   1) Respiratory failure:  Acute event the other night appears to be due
   to a mucus plug with aspiration in RLL.  No airway pathology seen on
   rigid bronch.
   - aspiration precautions
   - no evidence of pneumonia, off antibiotics
   - standing inhalers
   - CPAP prn per home regimen
   - appreciate ENT & IP input
   2) Elevated troponin/Hx CHF:  Likely demand in setting of hypotension,
   now resolving.  No ECG changes.
   - on home dose of lasix
   - hold anithypertensives given bp 80s/40s overnight
   3) F/E/N: Diet per speech/swallow recommendations.
   4) Anxiety:  ativan prn (home regimen.)
   ICU Care
   Nutrition:
   Comments: advance diet as above
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2138-9-27**] 12:52 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent:  25 minutes

2138-09-28 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient weaned to nasal cannula during day, CPAP at night. No events
   of respiratory distress overnight.
   - diet advanced following speech/swallow guidelines. Patient tolerating
   regular diet with aspiration precautions. Pills with thickened liquids
   - Patient received one extra dose of PO ativan 0.5mg overnight for
   anxiety
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2138-9-25**] 09:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Morphine 1 mg IV prn hip pain
   Ativan PO/ IV prn anxiety
   Lasix 40 mg daily
   Lactulose 30 mg daily
   Albuterol q4 hr
   Atrovent
   Colace 100 [**Hospital1 **]
   Pantoprazole 40 IV daily
   Chlorhexidine mouthwash
   Senna
   Lamotrigine 25 mg [**Hospital1 **]
   Simvastatin 40 mg daily
   Aspirin 81 daily
   Seroquel
   Sertraline 100 daily
   Albuterol/ipratroprium nebs
   Insuline sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-28**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 75 (71 - 94) bpm
   BP: 98/54(64) {83/38(53) - 138/79(91)} mmHg
   RR: 16 (8 - 21) insp/min
   SpO2: 94%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 60 Inch
             Total In:
                                                                    660 mL
                                                                    112 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                     40 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                     15 mL
   Urine:
                                                                  1,325 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -665 mL
                                                                     97 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 94%
   ABG: ///29/
   Physical Examination
   GEN: NAD, sleeping, easily aroused
   HEENT: MMM
   CV: RRR
   Pulm: bibasilr rales, occ scattered rhonchi
   Abd: obese, soft, nt/nd
   Ext: no c/c.e
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   420 K/uL
   10.6 g/dL
   115 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   13 mg/dL
   103 mEq/L
   142 mEq/L
   30.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
                             [**2138-9-24**]  11:40 AM
                             [**2138-9-25**]  04:25 AM
                             [**2138-9-26**]  03:11 AM
                             [**2138-9-27**]  03:35 AM
                             [**2138-9-28**]  04:12 AM
   WBC
   13.1
   10.3
   8.0
   10.4
   8.2
   7.7
   6.8
   Hct
   32.3
   30.5
   27.7
   28.3
   26.9
   30.3
   30.5
   Plt
   [**Telephone/Fax (3) 5041**]74
   423
   369
   420
   Cr
   1.3
   1.3
   1.2
   1.2
   1.0
   1.0
   0.9
   TropT
   0.03
   <0.01
   0.03
   0.13
   0.08
   Glucose
   70
   168
   120
   161
   205
   87
   115
   Other labs: PT / PTT / INR:13.8/30.1/1.2, CK / CKMB /
   Troponin-T:39/6/0.08, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Ms. [**Known lastname **] is a 67F with CAD s/p CABG, CHF, COPD and complicated
   pulmonary history with prolonged tracheostomy with recent decannulation
   and subsequent fistula closure (on ENT service at [**Hospital1 54**] on [**9-12**]) with
   complicated MRSA PNA presented with worsened respiratory distress.  Now
   s/p bronchoscopy which did not reveal significant upper airway
   stenosis.
   .
   1.  Respiratory failure.  Patient was intubated on [**9-24**] after episode of
   flash pulmonary edema while being bathed and concern for upper airway
   obstruction due to previous intubations/trach.  Patient also has
   history of trace aspiration.  Completed 10 day course for aspiration
   pneumonia on [**9-25**]. Rigid bronchoscopy on [**9-25**] showed no significant upper
   airway stenosis.  Extubated successfully on [**2138-9-26**]. No episodes of
   respiratory distress overnight, but given history, will watch closely
   today as patient is advanced on her diet with aspiration precautions.
   - IP and ENT following, appreciate recs
   - watch patient closely overnight as we advance her diet today
   - strict aspiration precautions with PO intake
 regular food with thin
   liquids with aspiration precautions, but pills must be taken with
   thickened liquids
   - continue nebs
   - continue home lasix for interstial edema
   - ativan prn for anxiety
   .
   2.Hypotension.  Patient off pressors, still with some low BP overnight,
   but asymptomatic
   - monitor BP and fluid boluses prn
   3.   CAD.  Patient had troponin leak in setting of flash pulmonary
   edema/HTN.  Troponins have trended down.
   -continue ASA, BB
   - consider resuming ACEI when BP tolerates and if renal function
   continues to improve
   .
   4.  CHF.  Patient had episode of pulmonary edema requiring intubation
   on [**9-23**].  CXR yesterday showed mild interstitial edema.  Currently
   euvolemic, but will continue home lasix dose.   TTE recently done
   ([**9-12**]) showed preserved EF with some focal wall motion abnormality.
   Patient euvolemic and net even overnight without any additional
   diuretics
   -continue home lasix
   -monitor I/Os
   -Continue BB
   - holding ACEI until blood pressure stable
   .
   5.  ARF.  Pre-renal ARF is resolved now.  Cr now 1.0.
   - consider resuming lisinopril when BP tolerates, Cr improved
   6.   COPD.
    -continue nebs
   .
   7. Depression/anxiety.  Patient has significant anxiety.
   -ativan prn anxiety, caution not to oversedate. Can change Ativan from
   IV to PO
   -Continue home lamotrigine, quetiapine, sertraline
   .
   8.  Hyperlipidemia:
   -Continue statin
   ICU Care
   Nutrition: Advance diet to regular diet with aspiration precautions,
   pills with thickened liquids
   Glycemic Control:
   Lines:
   RIC - [**2138-9-22**] 10:00 AM
   PICC Line - [**2138-9-23**] 09:34 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: pantoprazole
   VAP: Extubated
   Comments:
   Communication: Comments:
   Code status: Full code
   Disposition: ICU care for now

2138-09-28 10:23:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress.
   24 Hour Events:
   No events.  Feeling better.  Tolerating regular diet.
   Allergies:
   Heparin Agents
   Thrombocytopeni
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   zoloft, seroquel, aspirin, simvastatin, lamictal, senna, colace,
   bupropion, albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-9-28**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 78 (71 - 85) bpm
   BP: 106/55(67) {83/38(53) - 138/79(91)} mmHg
   RR: 14 (8 - 19) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                    660 mL
                                                                    153 mL
   PO:
                                                                    460 mL
             TF:
   IVF:
                                                                     40 mL
                                                                    153 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    115 mL
   Urine:
                                                                  1,325 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -665 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 5L NC
   SpO2: 92%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, No acute distress, breathing
   comfortably
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Crackles : , Wheezes : at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   420 K/uL
   115 mg/dL
   0.9 mg/dL
   29 mEq/L
   3.7 mEq/L
   13 mg/dL
   103 mEq/L
   142 mEq/L
   30.5 %
   6.8 K/uL
        [image002.jpg]
                             [**2138-9-22**]  09:05 AM
                             [**2138-9-23**]  12:45 AM
                             [**2138-9-24**]  03:50 AM
                             [**2138-9-24**]  11:40 AM
                             [**2138-9-25**]  04:25 AM
                             [**2138-9-26**]  03:11 AM
                             [**2138-9-27**]  03:35 AM
                             [**2138-9-28**]  04:12 AM
   WBC
   13.1
   10.3
   8.0
   10.4
   8.2
   7.7
   6.8
   Hct
   32.3
   30.5
   27.7
   28.3
   26.9
   30.3
   30.5
   Plt
   [**Telephone/Fax (3) 5041**]74
   423
   369
   420
   Cr
   1.3
   1.3
   1.2
   1.2
   1.0
   1.0
   0.9
   TropT
   0.03
   <0.01
   0.03
   0.13
   0.08
   Glucose
   70
   168
   120
   161
   205
   87
   115
   Other labs: PT / PTT / INR:13.8/30.1/1.2, CK / CKMB /
   Troponin-T:39/6/0.08, Differential-Neuts:89.8 %, Band:0.0 %, Lymph:6.9
   %, Mono:2.4 %, Eos:0.7 %, Lactic Acid:1.2 mmol/L, Ca++:9.3 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   67yo woman with h/o CAD s/p CABG, complicated pulmonary history
   including tracheobronchiomalacia, trach / decannulation, and recent
   tracheal fistula repair (on ENT service at [**Hospital1 54**] on [**9-12**]) c/b MRSA
   pneumonia presenting with respiratory distress.  Suspect mucus plug as
   the etiology +/- aspiration.  Now much improved, s/p extubation [**9-26**].
   1) Respiratory failure:  Acute event the other night appears to be due
   to a mucus plug with aspiration in RLL.  No airway pathology seen on
   rigid bronch.
   - aspiration precautions
   - no evidence of pneumonia, off antibiotics
   - standing inhalers/nebs
   - CPAP prn per home regimen
   - appreciate ENT & IP input
   2) Elevated troponin/Hx CHF:  Likely demand in setting of hypotension,
   now resolving.  No ECG changes.
   - on home dose of lasix
   - bp stable off antihypertensives
   3) F/E/N: Diet per speech/swallow recommendations.
   4) Anxiety:  ativan prn (home regimen.)
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2138-9-27**] 12:52 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: